US05998436
Synthesis of 1-(4-amino-3,5,6-trifluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 300 mg of ethyl 1-(4-t-butylamino-3,5,6-trifluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate were added 3 ml of 12N hydrochloric acid and 0.5 ml of acetic acid, and the mixture was heated under reflux for 1.5 hour. The reaction solution was allowed to cool, and the solid precipitated was collected by filtration and washed with ethanol and diethylether successively to obtain 168 mg of the title compound as a colorless powder.

reactant | ethyl 1-(4-t-butylamino-3,5,6-trifluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 300 mg | C(C)(C)(C)NC1=C(C(=NC(=C1F)F)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC)F | C21H17ClF5N3O3
reactant | hydrochloric acid | 12N, 3 ml | Cl | ClH
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 1-(4-amino-3,5,6-trifluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 168 mg | NC1=C(C(=NC(=C1F)F)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F | C15H5ClF5N3O3
